US05411989
trans-N-acetyl-4-nitroxycyclohexylamine
28.3 ml (0.3 mol) acetic acid anhydride are mixed with 375 ml acetonitrile, cooled in an ice-bath to 0°-5° C. and 12.6 ml (0.3 mol) 100% nitric acid added dropwise. After 30 minutes, 15.7 g (0.1 mol) solid trans-N-acetyl-4-hydroxycyclohexylamine are added thereto with stirring and cooling at 0°-5° C. The reaction mixture is further stirred for 3 h at 0°-5° C. and subsequently allowed to flow carefully into a solution of 150 g (18 mol) sodium hydrogen carbonate in 500 ml ice water. After extraction with ethyl acetate, drying of the organic phase with sodium sulphate and distilling off in a vacuum, there remain 17.8 g of crude product. After recrystallisation from ethyl acetate, there are obtained 10.3 g of the title compound of the m.p. 146°-148° C., i.e. 50% of theory.

reactant | acetic acid anhydride | 0.3 mol, 28.3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 0.3 mol, 12.6 ml | [N+](=O)(O)[O-] | HNO3
reactant | trans-N-acetyl-4-hydroxycyclohexylamine | C(C)(=O)N[C@@H]1CC[C@H](CC1)O | C8H15NO2
reactant | sodium hydrogen carbonate | 18 mol, 150 g | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 375 ml | C(C)#N | C2H3N
product | trans-N-acetyl-4-nitroxycyclohexylamine | 10.3 g | C(C)(=O)N[C@@H]1CC[C@H](CC1)O[N+](=O)[O-] | C8H14N2O4
